US05972937
3-(2-t-Butyldimethylsilyloxyethoxy)aniline
To a solution of 1-(2-t-butyldimethylsilyloxyethoxy)-3-nitrobenzene (7.918 g, 27 mmol) in ethanol (150 ml) was added 10% palladium catalyst on charcoal (2 g) and the reaction mixture was hydrogenated at atmospheric pressure for 2 hours. It was then filtered through kieselguhr and evaporated under reduced pressure to yield the product as a yellow oil (6.707 g, 94%)

reactant | 1-(2-t-butyldimethylsilyloxyethoxy)-3-nitrobenzene | 27 mmol, 7.918 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC(=CC=C1)[N+](=O)[O-] | C14H23NO4Si
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 3-(2-t-Butyldimethylsilyloxyethoxy)aniline | 6.707 g, 94% | [Si](C)(C)(C(C)(C)C)OCCOC=1C=C(N)C=CC1 | C14H25NO2Si
